US07923450B2
b) (4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-(4-pyridin-4-yl-phenyl)-amine
A solution of (4-pyridin-4-yl-phenyl)-thiourea (100 mg, 0.44 mmol) and 2-bromo-6-phenyl-cyclohexanone (116 mg, 0.46 mmol) in ethanol (5 ml) was heated to reflux over night. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride and methylene chloride/methanol (19:1 v/v) as the eluent to yield the title compound (34 mg, 20%) as a yellow solid. MS ISP (m/e): 384.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=8.61 (d, 2H), 7.59 (d, 2H), 7.46 (d, 1H), 7.18-7.33 (m, 5H), 7.13 (d, 2H), 4.08 (m, 1H), 2.75 (m, 2H), 2.18 (m, 1H), 1.7-1.98 (m, 3H).

reactant | (4-pyridin-4-yl-phenyl)-thiourea | 0.44 mmol, 100 mg | N1=CC=C(C=C1)C1=CC=C(C=C1)NC(=S)N | C12H11N3S
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.46 mmol, 116 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-(4-pyridin-4-yl-phenyl)-amine | 34 mg, 20% | C1(=CC=CC=C1)C1CCCC2=C1N=C(S2)NC2=CC=C(C=C2)C2=CC=NC=C2 | C24H21N3S
